US06613781B2
Preparation of (5-Fluoro-1H-indol-3-yl)(3-pyridinyl)methanol
A stirred solution of 5-fluoroindole (4 g, 30 mmol) in methanol is treated with 3-pyridine carboxaldehyde (2.79 ml, 30 mmol), cooled to 0° C., treated with 50% NaOH (3.25 ml), stirred at 0° C. for 1 hr, warmed to room temperature, stirred for 3 hr, treated with water and extracted with ethyl acetate. The extracts are combined, dried over Na2SO4 and concentrated in vacuo. The residue is treated with ethyl acetate and filtered. The filtrate is further concentrated and filtered. The filtercakes are combined and dried to afford the title compound as a pale orange solid 5.2 g (73%) mp 131-133° C., identified by NMR and mass spectral analyses.

reactant | 5-fluoroindole | 30 mmol, 4 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | 3-pyridine carboxaldehyde | 30 mmol, 2.79 ml | N1=CC(=CC=C1)C=O | C6H5NO
reactant | NaOH | 3.25 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | (5-Fluoro-1H-indol-3-yl)(3-pyridinyl)methanol | 5.2 g, 73% | FC=1C=C2C(=CNC2=CC1)C(O)C=1C=NC=CC1 | C14H11FN2O
